US04254135
Trans-4-amino-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide.
A solution of 23 g (79 mmoles) of trans-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methyl-4-nitrobenzamide in 250 ml of absolute ethanol was treated with platinum oxide and shaken with hydrogen at ambient temperature in the Parr reduction apparatus for 3 hr. The mixture was filtered and the filtrate was concentrated to give 20.6 g (100%) of crude product. One-half of the residue was crystallized from acetone to give 8.5 g (82%) of white powder; m.p. 142°-145° C.

reactant | trans-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methyl-4-nitrobenzamide | 79 mmoles, 23 g | C(C)N1C[C@H]([C@@H](C1)O)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C14H19N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | Trans-4-amino-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide | 8.5 g, 82% | NC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)CC)C=C1 | C14H21N3O2
